US07105671B2
A solution of 2-(3-chloro-4-methylsulfanyl-phenyl)-3-(6,10-dioxa-spiro[4.5]dec-2-yl)-propionic acid methyl ester (1.18 g, 3.07 mmol) in methylene chloride (8 mL) cooled to 0° C. was slowly treated with a mixture of 3-chloroperoxybenzoic acid (˜70%, 1.51 g based on 70%, 6.13 mmol) and sodium bicarbonate (1.03 g, 12.26 mmol) in methylene chloride (8 mL). The thick reaction mixture was diluted with methylene chloride (8 mL) and was then allowed to warm to 25° C., where it was stirred for 4 h. The reaction mixture was diluted with methylene chloride (200 mL) and water (200 mL). The organic phase was cooled down to 0° C. and then slowly treated with a saturated aqueous sodium bisulfite solution (200 mL). The organic layer was washed with a saturated aqueous sodium bicarbonate solution (100 mL), water (100 mL), and a saturated aqueous sodium chloride solution (100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 70–230 mesh, 50% ethyl acetate/hexanes) afforded 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(6,10-dioxa-spiro[4.5]dec-2-yl)-propionic acid methyl ester (1.22 g, 95%) as a colorless oil: EI-HRMS m/c calcd for C19H25ClO6S (M)+ 416.1060 found 416.1054.

reactant | 2-(3-chloro-4-methylsulfanyl-phenyl)-3-(6,10-dioxa-spiro[4.5]dec-2-yl)-propionic acid methyl ester | 3.07 mmol, 1.18 g | COC(C(CC1CC2(CC1)OCCCO2)C2=CC(=C(C=C2)SC)Cl)=O | C19H25ClO4S
reactant | 3-chloroperoxybenzoic acid | 6.13 mmol, 1.51 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | 12.26 mmol, 1.03 g | C([O-])(O)=O.[Na+]
reactant | sodium bisulfite | 200 mL | S([O-])(O)=O.[Na+]
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | water | 200 mL | O | H2O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(6,10-dioxa-spiro[4.5]dec-2-yl)-propionic acid methyl ester | 1.22 g, 95% | COC(C(CC1CC2(CC1)OCCCO2)C2=CC(=C(C=C2)S(=O)(=O)C)Cl)=O | C19H25ClO6S
